US04272437
1-(t-butyldimethylsilyl)-3-dimethylaminomethyl-4-tritylthio-2-azetidinone (cis and trans)
To a solution of dimethylamine (18.5 ml of a 2N solution in methanol, 36.9 mmoles) in methanol (80 ml) was added a solution of hydrochloric acid in methanol (2.5 ml of a 5N solution in methanol) followed by trans 1-(t-butyldimethylsilyl)-3-formyl-4-tritylthio-2-azetidinone (3.0 g, 6.16 mmoles) and by sodium cyanoborohydride (0.27 g, 4.31 mmoles). The mixture was stirred at room temperature for 3.5 h, poured onto ice-hydrochloric acid (pH=2) and made basic with sodium hydroxide (1N NaOH, pH=9). The mixture was extracted with ether and the ether phase was washed with brine, dried and evaporated to give the title compound as a crude oil (3.0 g).

reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
reactant | trans 1-(t-butyldimethylsilyl)-3-formyl-4-tritylthio-2-azetidinone | 6.16 mmoles, 3.0 g | [Si](C)(C)(C(C)(C)C)N1C([C@H]([C@@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O)=O | C29H33NO2SSi
reactant | sodium cyanoborohydride | 4.31 mmoles, 0.27 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1N, pH=9 | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 1-(t-butyldimethylsilyl)-3-dimethylaminomethyl-4-tritylthio-2-azetidinone | [Si](C)(C)(C(C)(C)C)N1C(C(C1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN(C)C)=O | C31H40N2OSSi
